US08357679B2
A: 4-(4-Amino-3-fluorobenzoyl)-1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-2-one
To a stirring solution of 4-amino-3-fluorobenzoic acid (1.965 mmol, 305 mg), 1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-2-one (1.965 mmol, 700 mg) and triethylamine (5.89 mmol, 596 mg) in dichloromethane (10 mL) was added 1-propanephosphonic acid cyclic anhydride (2.95 mmol, 1876 mg; 50% solution in ethyl acetate). The reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with dichloromethane (20 mL) and washed with saturated aqueous sodium hydrogen carbonate solution (30 mL). The organic phase was concentrated and the resulting residue was purified by column chromatography on silica gel (eluting with 50% ethyl acetate/50% dichloromethane—100% ethyl acetate gradient) to afford the title compound (550 mg). MS (ESI) m/z 492.3 [M−H]−

reactant | 4-amino-3-fluorobenzoic acid | 1.965 mmol, 305 mg | NC1=C(C=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | 1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-2-one | 1.965 mmol, 700 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2C(CNCC2)=O)C=C1)(F)F | C14H14F6N2O2
reactant | triethylamine | 5.89 mmol, 596 mg | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 2.95 mmol, 1876 mg | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(4-Amino-3-fluorobenzoyl)-1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-2-one | 550 mg | NC1=C(C=C(C(=O)N2CC(N(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)=O)C=C1)F | C21H18F7N3O3
